US06699904B2
A solution of 2-ethoxy-3-(4-{2-[heptyl-(1-p-tolyl-cyclopropanecarbonyl)-amino]-ethyl}-phenyl)-propionic acid methyl ester (94 mg, 0.185 mmol) and 1 M LiOH (0.60 mmol, 0.60 mL) in tetrahydrofuran (1 mL) was allowed to stir at room temperature for 16 hours. 2 N HCL was then added until the solution had a pH<2. After dilution with twice its volume in water, the aqueous layer was extracted with diethyl ether (2×). The organic layers were combined, washed with 2 M HCl (2×), dried over anhydrous sodium sulfate, and concentrated to give 2-ethoxy-3-(4-{2-[heptyl-(1-p-tolyl-cyclopropanecarbonyl)-amino]-ethyl}-phenyl)-propionic acid as a clear oil (60 mg, 66%).

reactant | 2-ethoxy-3-(4-{2-[heptyl-(1-p-tolyl-cyclopropanecarbonyl)-amino]-ethyl}-phenyl)-propionic acid methyl ester | 0.185 mmol, 94 mg | COC(C(CC1=CC=C(C=C1)CCN(C(=O)C1(CC1)C1=CC=C(C=C1)C)CCCCCCC)OCC)=O | C32H45NO4
reactant | LiOH | 0.60 mmol, 1 M, 0.60 mL | [Li+].[OH-]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 2-ethoxy-3-(4-{2-[heptyl-(1-p-tolyl-cyclopropanecarbonyl)-amino]-ethyl}-phenyl)-propionic acid | 60 mg, 66% | C(C)OC(C(=O)O)CC1=CC=C(C=C1)CCN(C(=O)C1(CC1)C1=CC=C(C=C1)C)CCCCCCC | C31H43NO4
